.lib /foss/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include eeg_fd_ota_cascode.spice
.include eeg_cmfb_amp.spice
.include eeg_fd_ota_cascode_cmfb.spice
.param VDD=1.8 VCM=0.9 VBN=0.65
VDD_SRC VDD18 0 {VDD}
VREF VCM_REF 0 {VCM}
VBN_SRC VBN 0 {VBN}
VCP_SRC VCP 0 0.65
VCN_SRC VCN 0 1.15
VINP INP 0 {VCM}
VINN INN 0 {VCM}
XAFE INP INN VCM_REF VBN VCP VCN OUTP OUTN VDD18 0 eeg_fd_ota_cascode_cmfb
CLOADP OUTP 0 1p
CLOADN OUTN 0 1p
.control
set noaskquit
dc VCN_SRC 0.55 1.25 0.025 VCP_SRC 0.30 1.10 0.025
let vcmout=(v(OUTP)+v(OUTN))/2
let idd=-i(VDD_SRC)
wrdata ../results/cascode_bias_sweep.csv v(VCN) v(VCP) vcmout idd
quit
.endc
.end
